US05348964
2-(1-Piperidyl)ethyl heptyl sulfone
Mix 2-chloroethyl heptyl sulfone (1.1 g, 5 mmol) and piperidine (10 mL). Stir at 60° C. overnight. Add addition piperidine (5 mL) and stir at 60° C. overnight. Cool to room temperature, partition between 5N sodium hydroxide and ethyl ether. Separate the organic phase and extract the aqueous phase with ethyl ether (2×25 mL). Combine the organic phases, dry (MgSO4) and evaporate in vacuo to yield 1.2 g orange oil which crystallizes. Purify by silica gel chromatography (ethyl acetate) to yield 930 mg. Purify again by silica gel chromatography (hexane, then 10% ethyl acetate/hexane, then 50% ethyl acetate/hexane) to yield 360 mg of the title compound as a yellow oil.

reactant | 2-chloroethyl heptyl sulfone | 5 mmol, 1.1 g | C(CCCCCC)S(=O)(=O)CCCl | C9H19ClO2S
reactant | piperidine | 10 mL | N1CCCCC1 | C5H11N
reactant | piperidine | 5 mL | N1CCCCC1 | C5H11N
product | 2-(1-Piperidyl)ethyl heptyl sulfone | 1.2 g | C(CCCCCC)S(=O)(=O)CCN1CCCCC1 | C14H29NO2S
